US07241760B2
5-Methyl-2-[2-methyl-4-(3-trifluoromethyl-phenylethynyl)-imidazol-1-yl]-pyridine
The title compound, MS: m/e=342.1 (M+), was prepared in accordance with the general method of example 1 from 2-methyl-4-(3-trifluoromethyl-phenylethynyl)-1H-imidazole and 2-fluoro-5-methylpyridine.

reactant | 2-methyl-4-(3-trifluoromethyl-phenylethynyl)-1H-imidazole | CC=1NC=C(N1)C#CC1=CC(=CC=C1)C(F)(F)F | C13H9F3N2
reactant | 2-fluoro-5-methylpyridine | FC1=NC=C(C=C1)C | C6H6FN
product | 5-Methyl-2-[2-methyl-4-(3-trifluoromethyl-phenylethynyl)-imidazol-1-yl]-pyridine | CC=1C=CC(=NC1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)C(F)(F)F)C | C19H14F3N3
